US05225207
The procedure is as Example 1, but starting from 2-acetylamino 2-acetylaminomethyl-bicyclo[2.2.2]octane (4.6 g) in a 6N solution (100 cc) of hydrochloric acid in water for 48 hours under reflux; taking up the residue from the evaporation in ethanol (25 cc) and diethyl ether (75 cc), 2-amino-2-aminomethyl-bicyclo[2.2.2]octane dihydrochloride (3 g) is obtained in the form of white crystals which melt at 302°-303° C.

reactant | 2-acetylamino 2-acetylaminomethyl-bicyclo[2.2.2]octane | 4.6 g | C(C)(=O)NC1(C2CCC(C1)CC2)CNC(C)=O | C13H22N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-amino-2-aminomethyl-bicyclo[2.2.2]octane dihydrochloride | 3 g | Cl.Cl.NC1(C2CCC(C1)CC2)CN | InChI=1S/C9H18N2.2ClH/c10-6-9(11)5-7-1-3-8(9)4-2-7;;/h7-8H,1-6,10-11H2;2*1H
